US06680316B1
Preparation of 5,6-bis(4-Methoxyphenyl)-2-isobutyl-4-(4-pyridylcarbamoyl)-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-carboxy-2-isobutyl-2H-pyridazin-3-one and 4-aminopyridine as starting materials, the procedures of Example 22 were repeated likewise, whereby the title compound was obtained quantitatively.

reactant | 5,6-bis(4-methoxyphenyl)-4-carboxy-2-isobutyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC(C)C)=O)C(=O)O | C23H24N2O5
reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
product | 5,6-bis(4-Methoxyphenyl)-2-isobutyl-4-(4-pyridylcarbamoyl)-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC(C)C)=O)C(NC1=CC=NC=C1)=O | C28H28N4O4
